US07179828B2
Antitumor Effects of Neopeltolide (I)
All cell lines are maintained in Roswell Park Memorial Institute (RPMI) medium 1640 supplemented with 100 U/mL penicillin 100 μg/ml streptomycin, 60 μg/ml L-glutamine, 18 mM HEPES, 0.05 mg/mL gentamycin and 10% fetal bovine serum. Cell lines are cultured in plastic tissue culture flasks and kept in an incubator at 37° C. in humidified air containing 5% CO2.

reactant | penicillin 100 | CCN(CC)CCOC(=O)C1=CC=C(C=C1)N.CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC3=CC=CC=C3)C(=O)O)C.O
reactant | L-glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | HEPES | 18 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | gentamycin | CC(C1CCC(C(O1)OC2C(CC(C(C2O)OC3C(C(C(CO3)(C)O)NC)O)N)N)N)NC | C21H43N5O7
reactant | CO2 | C(=O)=O | CO2
product | Neopeltolide | CCC[C@@H]1C[C@@H](C[C@@H](C[C@@H]2C[C@H](C[C@@H](O2)CC(=O)O1)OC(=O)/C=C\CCC3=COC(=N3)/C=C\CNC(=O)OC)C)OC | C31H46N2O9
